US09056859B2
To a 25 mL flask containing a stir bar was added compound 2-(methyloxy)-4-prop-2-en-1-ylbenzonitrile (0.150 g, 0.866 mmol) and MeOH (8 mL). The flask was placed in a cold bath of −78° C. Ozone was bubbled through the flask for about 10 min. followed by addition of dimethyl sulfide (1.5 mL, 0.024 mmol). The flask was taken out of the cold bath and stirred at room temperature for 1 h; LC indicated completion of the reaction. The reaction mixture was concentrated to dryness to give 2-(methyloxy)-4-(2-oxoethyl)benzonitrile. LC-MS (IE, m/z): 176 [M+1]+;

reactant | 2-(methyloxy)-4-prop-2-en-1-ylbenzonitrile | 0.866 mmol, 0.150 g | COC1=C(C#N)C=CC(=C1)CC=C | C11H11NO
reactant | dimethyl sulfide | 0.024 mmol, 1.5 mL | CSC | C2H6S
reactant | MeOH | 8 mL | CO | CH4O
product | 2-(methyloxy)-4-(2-oxoethyl)benzonitrile | COC1=C(C#N)C=CC(=C1)CC=O | C10H9NO2
